US05883255
26B. 8-[[(Dimethylaminoacetyl)oxy]methyl]-7-(1-oxopropyl)indolizino[1,2-b]quinolin-9(11H)-one Hydrochloride
A suspension of 8-[[(iodoacetyl)oxy]methyl]-7-(1-oxopropyl)indolizino[1,2-b]quinolin-9(11H)-one (48.8 mg, 0.098 mmol) in dry CH2Cl2 (5.0 mL) was covered by an atmosphere of (CH3)2NH (balloon). Within a few min the solid had dissolved and after 5 min the reaction was stripped to dryness. The residue was dissolved in CH2Cl2, washed first with 5% aqueous NaHCO3 and then with H2O, and dried over Na2SO4. The solvent was removed in vacuo, and the residue was suspended in H2O (20 mL) to which was added 1N HCl (100 μL) to dissolve most of the solid. After filtration, lyophilization gave the title compound. 1H NMR (CDCl3 /MeOH-d4) d 8.47 (s, 1H), 8.23 (d, J=8.3 Hz, 1H), 7.98 (d, J=7.5 Hz, 1H), 7.87 (m, 1H), 7.71 (m, 1H), 7.44 (s, 1H), 5.38 (s, 2H), 5.35 (s, 2H), 3.95 (s, 2H), 3.05 (s, 6H), 3.02 (q, J=7.1 Hz, 2H), 1.27 (t, J=7.1 Hz, 3H). Anal. Calcd for C23H23N3O4.HCl.7/4 H2O: C, 58.35; H, 5.86; N, 8.88. Found: C, 58.26; H, 5.51; N, 8.68.

reactant | 8-[[(iodoacetyl)oxy]methyl]-7-(1-oxopropyl)indolizino[1,2-b]quinolin-9(11H)-one | 0.098 mmol, 48.8 mg | ICC(=O)OCC=1C(N2CC=3C(=NC4=CC=CC=C4C3)C2=CC1C(CC)=O)=O | C21H17IN2O4
reactant | (CH3)2NH | N(C)C | C2H7N
reactant | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 8-[[(Dimethylaminoacetyl)oxy]methyl]-7-(1-oxopropyl)indolizino[1,2-b]quinolin-9(11H)-one Hydrochloride | Cl.CN(C)CC(=O)OCC=1C(N2CC=3C(=NC4=CC=CC=C4C3)C2=CC1C(CC)=O)=O | InChI=1S/C23H23N3O4.ClH/c1-4-20(27)16-10-19-22-15(9-14-7-5-6-8-18(14)24-22)11-26(19)23(29)17(16)13-30-21(28)12-25(2)3;/h5-10H,4,11-13H2,1-3H3;1H
